Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dilantin Kapseal / Sulfa (Sulfonamide Antibiotics) / Tegretol / 
Fentanyl / Thiopental / Succinylcholine / Vecuronium Bromide
 
Attending: ___
 
Chief Complaint:
fevers, shortness of breath  
 
Major Surgical or Invasive Procedure:
thoracentesis - ___
bone marrow biopsy - ___
abdominal fat pad biopsy - ___
cardiac catheterization - ___
cardiac biopsy - ___
coronary bypass surgery - ___

 
History of Present Illness:
___ year old gentleman with a history of afib, dCHF and bilateral 
pleural effusions s/p tap 1 week prior who presents for fevers 
to 101.7 from ___.  
.  
The patient as a recent history of worsening peripheral edema 
and dyspnea since ___ associated w/ intermittant fevers. 
During an admission to ___ in ___ he was treated for CHF w/ 
IV lasix and aldacone and for a PNA w/ azithromycin and 
ceftriaxone. His d/c dose of lasix was 40mg PO bid. In the 
setting of persistent shortness of breath despite diuresis, a 
chest CT scan was performed on ___ at ___ which 
demonstrated significant right pleural effusion and smaller left 
sided effusion. Three days later, ___ guided thoracentesis 
drained 1.5L of fluid w/ significant improvement in his 
breathing post tap before his shortness of breath returned. A 
repeat CT scan on ___ was performed to evaluate his lung 
parenchyma post thoracentesis, and re-accumulation of his right 
sided effusion was noted and no other acute processes. At this 
time the patient was referred to pulmonary at ___ for further 
work-up. Dr. ___ that in the setting of 
diastolic dysfunction with intermittent hypokinesis heart 
failure could be the driving cause behind the development of 
pleural fluid. He suggested consideration of a cardiac 
catheterization to evaluate the patients coronaries in addition 
to work-up of nephrotic syndrome given the patients low serum 
protein.  
.  
With regards to his prior cardiac work-up. A TTE from ___ 
at ___ demonstrates hypokinesis of the basal to mid lateral 
and inferolateral walls with mild-to-moderate mitral and 
mild-to-moderate aortic regurgination. The LVEF was 60-65% and 
right and left atrial enlargement were noted. A repeat TTE on 
___ demonstrated improved wall motion abnormaliteis with 
less AR and MR and TR gradient of 37 and LVEF again 60-65%.  
.  
The patient presented to ___ w/ fever at home to 101.7. He his 
breathing had improved during the past week on increased lasix 
and spironolactone therapy. This AM, he awoke fatiged and 
developed chills in the ___. He stopped into a hot bath and could 
not get out. His wife took his temperature and transferred him 
to ___. He denies recent cough, fevers, chills, nausea, emesis, 
diarrhea, constipation. Inital vitals were : 135/65 71 18 98% on 
2L NC. In addition he was reportably febrile. Labs were 
signiicant for a troponin T of 0.28 (last 0.155) and creatinine 
1.8 (baseline 1.2-1.4), a CPK 122 and CK-MB of 4.20. He was 
given 1gm ctx, lasix 40mg IV, and aspirin 325mg at 2:30 AM. He 
was not started on heparin given he was on warfarin. A chest 
xray was performed which showed no obvious signs of pneumona, 
evidence of the right sided pleural effusion. He was transferred 
to ___ for further management.  
.  
At ___, initial vitals were 98.2 72 113/49 18 99% 4L NC. AN 
EKG demonstrated afib 77 w/ RBBB, NA/NI, c/w prior early today; 
RBBB is new since ___. The patient was transferred immediately 
to the cardiology floor for futher management.  
.  
Currently, vitals are 98.9 118/62 70 20 96RA. He is comfortable 
breahting at baseline complaining of gerd sx which are chronic 
___ barretts. He reports his breathing and lower extremity edema 
are at baseline.  
.  
REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
Afib on coumadin
Diastolic heart failure (EF 60-65%)
OSA
Gout
GERD with ___ esophagus
Hiatal hernia
Elevated PSA
Erectile dysfunction
s/p cholecystectomy (___)
s/p right hip replacement (___)
s/p tailers bunion, fascia release, prosthesis (left foot) 
(___)
s/p deviated septum repair (___)
s/p tailers bunion removal (___)
s/p multiple laminectomies (___)
s/p tendon repair right arm (___)
s/p hemorrhoidectomy (___)
s/p pilonidal cyst removal (___)
s/p appendectomy (___)
s/p bone removal left foot (___)
s/p tonsillectomy (___)

 
Social History:
___
Family History:
Positive for hay fever.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS -98.9 118/62 70 20 96RA  
GENERAL - Alert, interactive, fatigued w/ heavy breathing  
HEENT - no scleral icterus, small abraision on lower lip  
NECK - JVD to neck  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - Crackles at bilateral lung bases, w/ decreased bs R>L  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES - 2+ pitting edema to thighs  
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact 

Discharge Exam:
VS: 97.3, 118/64 (90-118/48-61), 58 (54-89), 20, 95%RA BS 136 Wt 
99.7 (prev weight 99.7) I/O- not accurate due to missing voids  
General: AAOx3, white male sitting up in bed in NAD  
HEENT: MMM, no elevated JVP  
Cardiac: RRR, no MRG appreciated  
Lungs: Crackles bilaterally, no decreased breathsounds  
Abd: Soft, nontender, nondistended,  
Extremities: 3+ pitting edema to the knees bilaterally.  
Pulses: 2+ ___ bilaterally  

 
Pertinent Results:
Admission Labs:
___ 07:23AM BLOOD WBC-4.3# RBC-3.21* Hgb-10.7* Hct-34.1* 
MCV-106*# MCH-33.4* MCHC-31.5 RDW-15.9* Plt ___
___ 07:23AM BLOOD ___ PTT-44.9* ___
___ 07:23AM BLOOD Glucose-110* UreaN-27* Creat-1.8* Na-139 
K-3.8 Cl-102 HCO3-29 AnGap-12
___ 07:23AM BLOOD ALT-20 AST-30 LD(LDH)-248 CK(CPK)-128 
AlkPhos-234* TotBili-0.9
___ 07:23AM BLOOD Albumin-3.8 Calcium-9.2 Phos-4.2# Mg-1.9

Cardiac Labs:
___ 07:23AM BLOOD CK-MB-6 cTropnT-0.39*
___ 07:23AM BLOOD ALT-20 AST-30 LD(LDH)-248 CK(CPK)-128 
AlkPhos-234* TotBili-0.9
___ 03:58PM BLOOD CK-MB-7 cTropnT-0.36*
___ 03:58PM BLOOD ALT-22 AST-41* LD(LDH)-413* CK(CPK)-160 
AlkPhos-243* TotBili-1.2
___ 08:10AM BLOOD CK-MB-4 cTropnT-0.37*
___ 08:10AM BLOOD CK(CPK)-148

Hematologic workup:
___:03AM BLOOD Ret Aut-2.5
___ 03:58PM BLOOD TotProt-6.0* Albumin-3.9 Globuln-2.1 
Calcium-9.2 Phos-4.3 Mg-2.3
___ 07:03AM BLOOD calTIBC-246* VitB12-558 Folate-GREATER TH 
Ferritn-260 TRF-189*
___ 07:03AM BLOOD Calcium-9.4 Phos-4.1 Mg-2.0 Iron-24*
___ 08:10AM BLOOD Triglyc-67 HDL-42 CHOL/HD-3.1 LDLcalc-75
___ 07:03AM BLOOD TSH-2.7
___ 07:03AM BLOOD Free T4-1.9*
___ 03:58PM BLOOD IgG-239* IgA-11* IgM-7*
___ 05:15PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE
___ 06:29AM BLOOD HIV Ab-NEGATIVE
___ 03:58PM BLOOD PEP-SEVERE HYP IgG-239* IgA-11* IgM-7* 
IFE-
SPEP:  SEVERE HYPOGAMMAGLOBULINEMIA BASED ON IFE, TRACE AMOUNT 
___ KAPPA PRESENT THIS BAND SHOULD BE FOLLOWED IN URINE
UPEP: TRACE ABNORMAL BAND IN GAMMA REGION BASED ON IFE (SEE 
SEPARATE REPORT), IDENTIFIED AS ___ KAPPA NOW REPRESENTS 
ROUGHLY 60% OF URINARY PROTEIN BASED ON THIS SAMPLE'S 
PROTEIN/CREATININE RATIO
AND ASSUMING DAILY CREATININE EXCRETION OF 1000 MG WE ESTIMATE 
THIS PATIENT'S ___ EXCRETION AS 60% * 0.5 * 1000 = 300 
MG/DAY

Urine:
___ 10:16AM URINE Color-Yellow Appear-Clear Sp ___
___ 10:16AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-TR
___ 10:16AM URINE RBC-1 WBC-3 Bacteri-FEW Yeast-NONE Epi-0
___ 10:16AM URINE CastHy-54*
___ 01:12AM URINE Color-RED Appear-Hazy Sp ___
___ 01:12AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM 
___ 01:12AM URINE RBC->182* WBC-32* Bacteri-MOD Yeast-NONE 
Epi-0
___ 01:12AM URINE CastHy-41*
___ 08:05PM URINE Hours-RANDOM Creat-58 TotProt-31 
Prot/Cr-0.5*

Discharge Labs:
___ 06:15AM BLOOD WBC-11.6* RBC-3.01* Hgb-10.3* Hct-31.2* 
MCV-104* MCH-34.1* MCHC-32.9 RDW-16.2* Plt ___
___ 06:15AM BLOOD ___ PTT-28.8 ___
___ 06:15AM BLOOD Glucose-114* UreaN-67* Creat-1.8* Na-130* 
K-4.0 Cl-88* HCO3-32 AnGap-14
___ 06:15AM BLOOD Calcium-9.2 Phos-5.5* Mg-3.0*
___ 06:15AM BLOOD %HbA1c-6.1* eAG-128*

Microbiology:
blood cultures (___) x2 no growth
urine cultures ___ and ___ no growth

Imaging:
TTE ___:
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is at least 15 mmHg. There is moderate symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is mildly 
depressed (LVEF= 40 %) with hypokinesis of the basal and mid 
segments and a relative preservation of the distal segments and 
apex. Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). The right 
ventricular free wall thickness is normal. Right ventricular 
chamber size is normal with depressed free wall contractility. 
The aortic root is mildly dilated at the sinus level. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Mild 
(1+) aortic regurgitation is seen. The aortic regurgitation jet 
is eccentric, directed toward the anterior mitral leaflet. The 
mitral valve leaflets are mildly thickened. An eccentric, 
posteriorly directed jet of mild to moderate (___) mitral 
regurgitation is seen. [Due to acoustic shadowing, the severity 
of mitral regurgitation may be significantly UNDERestimated.] 
There is moderate pulmonary artery systolic hypertension. There 
is a trivial/physiologic pericardial effusion. 
IMPRESSION: Biatrial enlargment. Normal left ventricular cavity 
size with moderate symmetric left ventricular hypertrophy and 
impaired regional left ventricular systolic function as 
described above. Increased left ventricular filling pressure. 
Right ventricular hypertrophy with depressed right ventricular 
systolic function. Mildly dilated aortic root and ascending 
aorta. Mild aortic regurgitation. Mild to moderate mitral 
regurgitation. Moderate pulmonary artery systolic hypertension. 
The above findings could be consistent with an infiltrative 
process such as amyloid or, less likely, possible multivessel 
coronary artery disease; clinical correlation is suggested. 
Compared to the previous study of ___ (images unavailable 
for review), the biventricular systolic function is worse and 
the left ventricular wall motion abnormalities are new. The 
severity of mitral regurgitation has increased from mild to 
mild-to-moderate. The severity of pulmonary artery systolic 
hypertension has increased from mild to moderate.

CXR ___:
Moderate-to-severe cardiomegaly is unchanged. The azygos vein is 
distended as before. Right pleural effusion, that is moderate, 
has reaccumulated. There is no pneumothorax. Right lower lobe 
atelectasis has worsened. Right middle lobe atelectasis has also 
increased. There is mild vascular congestion. 

CXR ___:
Moderate cardiomegaly is stable. Large right pleural effusion 
has increased associated with adjacent atelectasis. There is no 
pneumothorax. There is mild vascular congestion. 

CXR ___:  
Moderate-to-large right pleural effusion ahs increased with 
increasing adjacent atelectasis. Cardiomegaly is unchanged. 
Small left pleural effusion has increased. Mild vascular 
congestion has increased. There is no pneumothorax. 

Abdominal ultrasound ___:
1. Echogenic liver, likely denoting steatosis. More advanced 
disease such as cirrhosis or fibrosis cannot be excluded with 
this technique. 
2. Slight increase in size of right upper pole and left mid pole 
renal cysts. 
3. Large right pleural effusion. 

Cardiac MRI ___: 
1. Moderate symmetric left ventricular hypertrophy with severely 
increased mass index and normal left ventricular cavity size. 
The LVEF was mildly decreased at 47% secondary to basal to mid 
inferior and lateral wall hypokinesis. The effective forward 
LVEF was mildly decreased at 45%. There was CMR evidence of 
focal patchy transmural gadolinium hyperenhancement in the basal 
to mid lateral wall. Although this pattern is atypical for 
amyloid, it has been previously described in rare cases of 
biopsy proven cardiac amyloidosis and, in association with the 
other findings described below, is suggestive of this 
infiltrative process. Based on the non-coronary distribution of 
the wall motion abnormalities and gadolinium hyperenhacement, 
healed myocarditis should also be considered in the differential 
diagnosis.
2. Normal right ventricular cavity size with moderately 
decreased global systolic function. The RVEF was normal at 35%. 
3. The indexed diameters of the ascending and descending 
thoracic aorta were normal. The indexed diameter of the main 
pulmonary artery was mildly increased.
4. Mitral and aortic regurgitation (not quantified).
5. Moderate biatrial enlargement.
6. Trace pericardial and very large right pleural effusion.

CXR ___: FINDINGS: In comparison with study of ___, there has 
been placement of a right pigtail catheter with some decrease in 
the amount of pleural effusion.  Otherwise, little change except 
for some improvement in pulmonary vascular status. No evidence 
of pneumothorax. 

Carotid Doppler ___: 
Impression: Right ICA <40% stenosis. Left ICA <40% stenosis. 

Skeletal Surgery ___:
IMPRESSION: No definite lytic lesions. Note MRI is more 
sensitive to 
evaluate for myelomatous lesions. 

Cardiac Catheterization ___: FINAL DIAGNOSIS: 1. Severe ostial 
LMCA with eccentric plaque with IVUS calculated area of 6.3. 2. 
Severely diseased LAD by IVUS (calculated area 2.3). 

Pathology: 

Cardiac Biopsy: ___: Heart, right ventricle, biopsy: 
Amyloidosis, see note. Note:  ___ red is positive, with 
apple-green birefringence.

Bone Marrow Bx: Hypercellular marrow, with ~40% of cellularity 
replaced by sheets and large aggregates of plasma cells.  
Trilineage maturing hematopoietic cells present in background.

Fat pad Bx: Mature fibroadipose tissue without evidence of 
amyloid.

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man history of Afib, dCHF, 
persistent bilateral pleural effusions who was transferred from 
outside hospital for workup of his effusions who was found to 
have CAD, decompensated diastolic heart failure and cardiac 
amyloydosis who is currently stable.  

#Coronary Artery Disease:   Patient had NSTEMI on admission with 
elevated troponins (peaked at 0.39) with TWI in V1-V3.  His TTE 
showed global hypokineses and substantially reduced EF compared 
to prior, and evidence of possible infiltration.  He underwent a 
cardiac catheterization on ___ which showed 50% left main 
disease, 50% LAD stenosis, and no intervention was performed at 
this time as evalution for CABG was preferred for the left main 
disease.  Because his cardiac biopsy pathology showed 
amyloydosis a CABG was not appropriate.  Dicussions with 
multiple interventional cardiology attendings discussed whether 
stenting of the left main would be beneficial in this patient. 
It was felt that at this time he would be too high risk to 
undergo PCI of the left main with his possible upcoming 
treatment for his amyloidosis.  This can be further assessed in 
the future with his outpatient cardiologist Dr. ___.  
Therefore he will continue with medical management for his CAD.
-Medical management of his CAD with Aspirin, Metoprolol, 
-Not starting ACE at this time as he has elevated Cr
-Starting Atorvastatin 80mg po qday

# dCHF: The patient had known diastolic heart failure and was 
volume overload on his admission.  TTE on ___ showed  Biatrial 
enlargment, right and left ventricular hypertophy and decrease 
RV systolic function and global hypokinesis concerning for 
infiltrative process.  He underwent a fat pad biopsy and right 
ventricle cardiac biopsy which showed amyloidosis.  He was 
volume overload on exam with 2+pitting edema to the thighs on 
admission.His weight on admission was 110kg.  He was   He was 
diuresed with IV lasix boluses and his weight at discharge was 
99.6 kg.  His goal dry weight was 95kg.
-He will require continued diuresis as an oupatient with goal 
weight of 95kg
-Patient will need to be weighed daily, and if weight increases 
by 3lbs should have medications adjusted
-Continue po lasix  with IV doses if required to help diurese 
patient
.
#Cardiac Amyloid and Multiple Myeloma:  Patient underwent a 
workup for infiltrative disease and was found to have a 
monoclonal kappa band and severe hypogammaglobulinemia on 
SPEP/UPEP.  He underwent bone marrow biopsy which showed 40% 
plasma cells. Cardiac MRI performed, was not conclusive for 
infiltrative disease.  Abdominal fat pad biopsy both performed 
___, revealed no amyloid. Started on dexamthasone. RV cardiac 
biopsy was positive for amyloid.  Further treatment discussions 
will be deffered to the outpatient oncologist.
-Patient completed 4 days of dexamethasone and this was 
discontinued at discharge for concern of contributing to volume 
overload. Pt will continue allopurinol ___ po qday
-patient to follow-up with Dr. ___ on ___
.
#ATRIAL FIBRILLATION: Patient has Chronic Afib with CHADS2 = 2 
(age and CHF).  On coumadin as outpatient with supratherapeutic 
INR on presentation (3.3).  His warfarin was held towards the 
end of his hospitalization for possible interventions so he was 
subtherapeutic at the time of discharge. He was rate controlled 
during this admission.
-Restart his warfarin at home dose of 5mg po qday, no need for 
bridging given his low CHADS2 score.
-Monitor INR every other day with goal INR of 2.0-2.5 given for 
increased risk of bleeding with amyloid
-Patient was switched from atenolol to metoprolol given his 
worsening renal function
.
# ___:  Cr 1.8 on presentation, this is elevated compared to his 
baseline of 1.2-1.4. This was stable throughout his admission 
while being diuresed.
-Continue to monitor
-___ require further outpatient workup if remains elevated
- Will call patient to establish renal f/u
.
# PLEURAL EFFUSION:  Patient has persistent pleural effusions. 
Transudate based on lights criteria.
-Will follow-up with pulmonology
.
# LFTs:  ALP noted to be elevated at OSH, ALT/AST and T bili 
normal.  Patient is s/p cholecystectomy.  Repeat LFTs also 
showed elevated SLP and LDH.  Possibly due to infiltrative 
process.
.
# Macrocytic anemia:  Anemia is within his prior normal range, 
but MCV now elevated to low 100s, and RDW slightly elevated.  
B12 and folate normal, iron studies show elevated TRF, otherwise 
normal.  Retic count normal.
.
# BPH:  continued doxazosin, hold Viagra
# GERD / ___ / hiatal hernia:  continued omeprazole, 
started Tums.  
# DEPRESSION / sleep:  continued amitriptyline, held zolpidem
# GOUT: recent flare, resolving.  continued allopurinol and 
tramadol

Transitional Issues:
Pending labs: None
- Renal f/u
- Heme/onc f/u
- Cards f/u

Medications Started:
1. Atorvastatin 80mg by mouth once a day (cholesterol lowering 
medication to take after having a heart attack)
2. Metoprolol succinate 50mg by mouth once a day (blood pressure 
a heart rate controlling medication- is replacing atenolol)
3. Sublingual nitroglycerin (to take for chest pain as needed)
4. Miralax (stool softener to use for constipation as needed)
5. Colace (stool softener as needed for constipation)
6. Senna (stool softener as needed for constipation)

Medications changed:
1. Aspirin increased from 81mg by mouth once a day to 162 mg by 
mouth once a day

Medications stopped:
1. Atenolol (you are taking metoprolol instead)
2. Viagra (do not take until you discuss with your PCP)
3. Centrum silver (hold this for now)

 
Medications on Admission:
1. Allopurinol ___ qHS  
2. Amitryptiline 30mg qHS  
3. Atenolol 12.5mg qAM  
4. Aspirin 81mg daily  
5. Calcium + 2 daily  
6. Cardura 4mg qHS  
7. Centrum Silver Daily  
8. Colcrys 0.6mg qHS  
9. Lasix 40mg BID  
10. Guaifenasin 400mg qPM  
11. Omeprazole 20mg BID  
12. Ultram 50mg prn pain  
13. Viagra 10mg prn  
14. Warfarin 5mg daily  
15. Zolpidem 5mg qHS  
16. Spironolactone 50mg BID  

 
Discharge Medications:
1. metoprolol succinate 50 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO once a day.  
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  

3. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. amitriptyline 10 mg Tablet Sig: Three (3) Tablet PO once a 
day.  
5. doxazosin 4 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
7. furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.  
9. spironolactone 50 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
10. zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
11. aspirin 162 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
12. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO QID (4 times a day) as needed 
for dyspepsia.  
13. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual prn as needed for chest pain.  
14. polyethylene glycol 3350 17 gram Powder in Packet Sig: ___ 
Powder in Packets PO DAILY (Daily) as needed for constipation.  
15. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for heartburn.  
16. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
17. senna 8.6 mg Capsule Sig: One (1) Tablet PO BID (2 times a 
day) as needed for costipation.  
18. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
19. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO at bedtime 
as needed for gout flare.  
20. guaifenesin 400 mg Tablet Sig: One (1) Tablet PO at bedtime 
as needed for cough.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
-Acute on chronic diastolic heart failure
-Coronary Artery Disease
-Multiple Myeloma (smoldering)
-Cardiac amyloid

Secondary diagnoses:
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___.
You came to the hospital with shortness of breath and fever. You 
were found to have a heart attack and underwent a cardiac 
catheterization which found some blockages in your arteries 
called coronary artery disease.  Because of the amyloid in your 
heart having heart surgery was determined to not be apporpirate 
for you.  You will manage the blockages in your heart arteries 
with medications at this time and can discuss further 
interventions with Dr. ___ as an outpatient. 
You underwent a cardiac biopsy without complication and were 
found to have multiple myeloma with amyloid in your heart. You 
were seen by the hematology/oncologists and they will discuss 
your treatment options as an outpatient when you follow-up with 
them (see below).
You had extra fluid on your body due to your heart backing up 
called (congestive heart failure). We were taking fluid off by 
give you medications called diuretics (lasix and 
spironolactone). You still have extra fluid on at the time of 
discharge, and will need to have this followed at rehab.
 You were found to have fluid at the base of your lungs (pleural 
effusion), which you have had previously.  You also had excess 
fluid throughout your body.  You were treated with diuretics to 
reduce the fluid overload.  The Pulmonary team again drained 
fluid from your lungs.  Your breathing slowly improved with 
these treatments.  You should follow-up with Pulmonary to 
discuss ways to keep this fluid from returning.

We made multiple changes to you medications while you were here. 
 

Transitional Issues:
Pending labs:  None

Medications Started:
1. Atorvastatin 80mg by mouth once a day (cholesterol lowering 
medication to take after having a heart attack)
2. Metoprolol succinate 50mg by mouth once a day (blood pressure 
a heart rate controlling medication- is replacing atenolol)
3. Sublingual nitroglycerin (to take for chest pain as needed)
4. Miralax (stool softener to use for constipation as needed)
5. Colace (stool softener as needed for constipation)
6. Senna (stool softener as needed for constipation)

Medications changed:
1. Aspirin increased from 81mg by mouth once a day to 162 mg by 
mouth once a day

Medications stopped:
1. Atenolol (you are taking metoprolol instead)
2. Viagra  (do not take until you discuss with your PCP)
3. Centrum silver (hold this for now)

Please follow-up with your physicians as listed below.
 
Followup Instructions:
___